US09102682B2
Intermediate J was hydrogenated using 10% Pd/C under hydrogen at 50 psi in a pressure vessel to afford tert-butyl N-[(2S)-2-amino-2-phenyl-ethyl]carbamate which was then reacted with 5-bromo-2,4-dichloro-pyrimidine using analogous reaction conditions as described using analogous reaction conditions as described for tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate to afford tert-butyl N-[(2S)-2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-2-phenyl-ethyl]carbamate. 1H NMR (600 MHz, DMSO-d6) δ ppm 1.32 (s, 9H) 3.29-3.50 (m, 2H) 5.12-5.24 (m, 1H) 7.10 (t, J=5.27 Hz, 1H) 7.21 (t, J=6.88 Hz, 1H) 7.26-7.34 (m, 4H) 7.89 (d, J=7.32 Hz, 1H) 8.24 (s, 1H). LCMS (ESI) 427 (M+H).

reactant | 5-bromo-2,4-dichloro-pyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC(CNC(OC(C)(C)C)=O)C(C)C | C14H22BrClN4O2
product | tert-butyl N-[(2S)-2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-2-phenyl-ethyl]carbamate | BrC=1C(=NC(=NC1)Cl)N[C@H](CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H20BrClN4O2
